US04260772
1-[4-Chloro-2-benzoylphenyl]-3-phthalimidopropyne
A mixture of 0.71 g (4.0 mmole) of palladium chloride, 2.1 g (8.0 mmole) of triphenylphosphine, 0.80 g (4.2 mmole) of cuprous iodide, 68.8 g (0.20 mole) of 5-chloro-2-iodobenzophenone, 200 ml of diethylamine, and 400 ml of methylene chloride was stirred at room temperature under argon until complete solution was obtained. In one portion, 40.0 g (0.22 mole) of N-propargylphthalimide was added to the solution and the resulting mixture stirred for 20 hr. The volatiles were removed at reduced pressure and the residue was triturated with 200 ml of iospropanol. The resulting percipitate was collected by filtration to give crude end product. Recrystallization from acetone gave cream colored prisms, mp 148°-150° C.

reactant | triphenylphosphine | 8.0 mmole, 2.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-chloro-2-iodobenzophenone | 0.20 mole, 68.8 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)I | C13H8ClIO
reactant | diethylamine | 200 ml | C(C)NCC | C4H11N
reactant | N-propargylphthalimide | 0.22 mole, 40.0 g | C(C#C)N1C(C=2C(C1=O)=CC=CC2)=O | C11H7NO2
catalyst | palladium chloride | 4.0 mmole, 0.71 g | [Pd](Cl)Cl
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-Chloro-2-benzoylphenyl]-3-phthalimidopropyne | ClC1=CC(=C(C=C1)C#CCN1C(C=2C(C1=O)=CC=CC2)=O)C(C2=CC=CC=C2)=O | C24H14ClNO3
